US08067445B2
Step 3: (2′-Ethylaminomethyl-6-methoxy-5′-trifluromethyl-biphenyl-3-yl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 33, Step 4, using the following starting materials: (2′-formyl-6-methoxy-5′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester and ethylamine (2M in THF).

reactant | (2′-formyl-6-methoxy-5′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=CC(=C1)C(F)(F)F)C=O)=O | C19H17F3O4
reactant | ethylamine | 2M | C(C)N | C2H7N
product | (2′-Ethylaminomethyl-6-methoxy-5′-trifluromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=CC(=C1)C(F)(F)F)CNCC)=O | C21H24F3NO3
